US08247576B2
33D. 1-{2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-piperazine
1-[2,2-Bis-(4-chloro-phenyl)-ethyl]-piperazine was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-B3) Rt 2.63 [M+]+ 326.00. 1H NMR (Me-d3-OD) δ 3.55-3.68 (8H, m), 3.74 (1H, t), 4.10-4.17 (2H, m), 7.39 (2H, d), 7.48 (2H, d), 7.54 (2H, d), 7.70 (2H, d), 8.57 (2H, br s).

reactant | 1-[2,2-Bis-(4-chloro-phenyl)-ethyl]-piperazine | ClC1=CC=C(C=C1)C(CN1CCNCC1)C1=CC=C(C=C1)Cl | C18H20Cl2N2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 1-{2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-piperazine | ClC1=CC=C(C=C1)C(CN1CCNCC1)C1=CC=C(C=C1)C=1C=NNC1 | C21H23ClN4
